US09255090B2
Synthesis of (±)-5-Fluoro-8-[2-methoxy-4-(1-methoxycarbonyl-ethoxy)-phenyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C28H28NO6F, MW=493.19)
A mixture under N2 of palladium (II) acetate (0.4 mg, 2 μmol, 0.01 eq.), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.7 mg, 4 μmol, 0.02 eq.), 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (95 mg, 0.20 mmol, 1.00 eq.) and potassium phosphate (85 mg, 0.40 mmol, 2.00 eq.) in toluene (0.6 mL) and water (0.035 mL) was stirred at r.t. for 2 min. A solution of (±)-2-(4-Bromo-3-methoxy-phenoxy)-propionic acid methyl ester (58 mg, 0.2 mmol, 1.00 eq.) in toluene (0.6 mL) was added and the mixture was stirred at 100° C. for 2 days. The mixture was allowed to cool to r.t., filtered through celite and concentrated in vacuo. The crude residue, redissolved in MeCN (1.5 mL) and formic acid (0.2 mL), was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give the title compound as a colorless oil.

reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4 μmol, 1.7 mg, 0.02 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.20 mmol, 95 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
reactant | potassium phosphate | 0.40 mmol, 85 mg, 2.00 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-2-(4-Bromo-3-methoxy-phenoxy)-propionic acid methyl ester | 0.2 mmol, 58 mg, 1.00 eq. | COC(C(C)OC1=CC(=C(C=C1)Br)OC)=O | C11H13BrO4
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.035 mL | O | H2O
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 2 μmol, 0.4 mg, 0.01 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-5-Fluoro-8-[2-methoxy-4-(1-methoxycarbonyl-ethoxy)-phenyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=C(C=C1)OC(C)C(=O)OC)OC | C28H28FNO6
